US06875775B2
3-(4-Chlorophenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]-4-phenylbut-3-en-1-ol
(2-{4-[4-Benzyloxy-2-(4-chlorophenyl)-1-phenylbut-1-enyl]phenoxy}ethyl)dimethylamine (1.1 g, 2.1 mmol) is dissolved in toluene, Zn powder (0.4 g, 6.1 mmol) and acetyl chloride (0.6 g, 7.6 mmol) are added and the mixture is stirred at 40° C. for 3 h. Additional Zn (0.5 g) and acetyl chloride (0.6 g) are added and stirring is continued for another 5 h. Ethyl acetate is added and the precipitate is filtered off. The solvents are evaporated and the residue is dissolved in methanol. The acetate ester of the product is hydrolyzed by making the mixture alkaline with 48% aqueous sodium hydroxide and stirring the mixture at room temperature for 2 h. Methanol is evaporated, the residue is dissolved in toluene and washed with water. Toluene is evaporated and the isomers of the product are separated by flash chromatography. The yield of the Z-isomer is 0.25 g and of the E-isomer 0.15 g.

reactant | (2-{4-[4-Benzyloxy-2-(4-chlorophenyl)-1-phenylbut-1-enyl]phenoxy}ethyl)dimethylamine | 2.1 mmol, 1.1 g | C(C1=CC=CC=C1)OCCC(=C(C1=CC=CC=C1)C1=CC=C(OCCN(C)C)C=C1)C1=CC=C(C=C1)Cl | C33H34ClNO2
reactant | acetyl chloride | 7.6 mmol, 0.6 g | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.6 g | C(C)(=O)Cl | C2H3ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Zn | 6.1 mmol, 0.4 g | [Zn] | Zn
catalyst | Zn | 0.5 g | [Zn] | Zn
product | 3-(4-Chlorophenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]-4-phenylbut-3-en-1-ol | ClC1=CC=C(C=C1)C(CCO)=C(C1=CC=CC=C1)C1=CC=C(C=C1)OCCN(C)C | C26H28ClNO2
